US07897597B2
N-{2-[8-(benzyloxy)-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide (2.41 g, 4.55 mmol) was suspended in dichloromethane (75 mL) and trichloroacetyl isocyanate (0.70 mL, 5.92 mmol) was added dropwise. After stirring for 1 hour, the volatiles were removed under reduced pressure. The resulting orange residue was dissolved in methanol (75 mL) and 6 mL of sodium methoxide (21% in methanol) was added. The reaction was stirred overnight and then the methanol was removed under reduced pressure. The residue was dissolved in dichloromethane and washed with water followed by brine. The organic fraction was dried over sodium sulfate, filtered and concentrated under reduced pressure to give an orange foam. The residue was purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used eluting with a gradient of 10-20% CMA in chloroform to yield 1.51 g of N-{2-[4-amino-8-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide as a tan solid.

reactant | N-{2-[8-(benzyloxy)-2-(ethoxymethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide | 4.55 mmol, 2.41 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=C(N3CC(C)(C)NC(=O)C3CCCCC3)COCC | C31H38N4O4
reactant | trichloroacetyl isocyanate | 5.92 mmol, 0.70 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-{2-[4-amino-8-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide | 1.51 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)(C)NC(=O)C2CCCCC2)COCC)OCC2=CC=CC=C2 | C31H39N5O3
